* Ic-Vbe npn_l1 T=27.0
* Educational CMOS Level-1 (Shichman–Hodges) + BJT device library
* Shared by netlists/*.sp via:  .include ../models/cmos.lib
*
* MOSFET flavors (use these model names on M* cards):
*
*   nmos_rvt   regular-Vt NMOS   VTO = +0.50 V
*   pmos_rvt   regular-Vt PMOS   VTO = -0.50 V
*   nmos_nat   native / near-0 Vt NMOS   VTO =  0.00 V
*   nmos_hvt   high-Vt NMOS      VTO = +0.70 V
*   pmos_hvt   high-Vt PMOS      VTO = -0.70 V
*   nmos_tox   thick-oxide NMOS  VTO = +0.70 V  (lower KP; ~3.3 V I/O)
*   pmos_tox   thick-oxide PMOS  VTO = -0.70 V  (lower KP; ~3.3 V I/O)
*
* BJT flavors (use these model names on Q* cards):
*
*   npn_l1     educational NPN   BF = 100
*   pnp_l1     educational PNP   BF =  50
*
* Temperature: MOSFET TCV/BEX + BJT XTI/EG/XTB (TNOM=27 C).
* Monte Carlo: set .param mc=1 then re-run / use ngspice MC; LOT (global)
*   shifts VTO/KP/IS/BF. See models/README.md.
*
* Nominal process context: L = 0.18 um, VDD ~ 1.8 V (thin ox); tox ~ 3.3 V.

* --- Monte Carlo switches (LOT = global / wafer) ---
* mc=0 → nominal; mc=1 → apply agauss LOT shifts below.
* sig_* are 1-sigma educational defaults (not foundry-calibrated).
.param mc=0
.param sig_vto_lot=20m
.param sig_kp_lot=0.05
.param sig_is_lot=0.10
.param sig_bf_lot=0.10
*
* Unit normals (re-sampled each MC trial when agauss is re-evaluated)
.param u_vto_n=agauss(0,1,1)
.param u_vto_p=agauss(0,1,1)
.param u_kp_n=agauss(0,1,1)
.param u_kp_p=agauss(0,1,1)
.param u_is_n=agauss(0,1,1)
.param u_is_p=agauss(0,1,1)
.param u_bf_n=agauss(0,1,1)
.param u_bf_p=agauss(0,1,1)
*
.param d_vto_n='mc*sig_vto_lot*u_vto_n'
.param d_vto_p='mc*sig_vto_lot*u_vto_p'
.param d_kp_n='mc*sig_kp_lot*u_kp_n'
.param d_kp_p='mc*sig_kp_lot*u_kp_p'
.param d_is_n='mc*sig_is_lot*u_is_n'
.param d_is_p='mc*sig_is_lot*u_is_p'
.param d_bf_n='mc*sig_bf_lot*u_bf_n'
.param d_bf_p='mc*sig_bf_lot*u_bf_p'
*
* Optional per-device DEV sigma (not auto-applied; Level-1 shares .model).
* Use in the deck if you create per-instance model copies or subckts:
.param sig_vto_dev=10m
.param sig_kp_dev=0.02

* --- Regular Vt ---
.model nmos_rvt NMOS (LEVEL=1 VTO={0.5+d_vto_n} KP={200e-6*(1+d_kp_n)}
+  GAMMA=0.4 PHI=0.7 LAMBDA=0.05 TNOM=27 TCV=-1.5e-3 BEX=-1.5)
.model pmos_rvt PMOS (LEVEL=1 VTO={-0.5-d_vto_p} KP={100e-6*(1+d_kp_p)}
+  GAMMA=0.4 PHI=0.7 LAMBDA=0.05 TNOM=27 TCV=1.5e-3 BEX=-1.5)

* --- Native Vt (NMOS only; educational near-zero threshold) ---
.model nmos_nat NMOS (LEVEL=1 VTO={0.0+d_vto_n} KP={200e-6*(1+d_kp_n)}
+  GAMMA=0.4 PHI=0.7 LAMBDA=0.05 TNOM=27 TCV=-1.5e-3 BEX=-1.5)

* --- High Vt ---
.model nmos_hvt NMOS (LEVEL=1 VTO={0.7+d_vto_n} KP={200e-6*(1+d_kp_n)}
+  GAMMA=0.4 PHI=0.7 LAMBDA=0.05 TNOM=27 TCV=-1.5e-3 BEX=-1.5)
.model pmos_hvt PMOS (LEVEL=1 VTO={-0.7-d_vto_p} KP={100e-6*(1+d_kp_p)}
+  GAMMA=0.4 PHI=0.7 LAMBDA=0.05 TNOM=27 TCV=1.5e-3 BEX=-1.5)

* --- Thick oxide (lower KP; educational ~3.3 V I/O) ---
.model nmos_tox NMOS (LEVEL=1 VTO={0.7+d_vto_n} KP={80e-6*(1+d_kp_n)}
+  GAMMA=0.4 PHI=0.7 LAMBDA=0.05 TNOM=27 TCV=-1.5e-3 BEX=-1.5)
.model pmos_tox PMOS (LEVEL=1 VTO={-0.7-d_vto_p} KP={40e-6*(1+d_kp_p)}
+  GAMMA=0.4 PHI=0.7 LAMBDA=0.05 TNOM=27 TCV=1.5e-3 BEX=-1.5)

* --- Vertical BJT (minimal educational Gummel–Poon) ---
.model npn_l1 NPN (IS={1e-16*(1+d_is_n)} BF={100*(1+d_bf_n)} NF=1 VAF=50
+  IKF=1e-2 XTI=3 EG=1.11 XTB=-1.5 TNOM=27)
.model pnp_l1 PNP (IS={1e-16*(1+d_is_p)} BF={50*(1+d_bf_p)} NF=1 VAF=30
+  IKF=5e-3 XTI=3 EG=1.11 XTB=-1.5 TNOM=27)

.param mc=1
.param u_is_n=0.061788
.param u_bf_n=-0.314601
.temp 27.0

Q1 c b 0 npn_l1
Vce c 0 2
Vbe b 0 0
.dc Vbe 0.4 0.9 0.002

.control
set filetype=ascii
run
wrdata icvbe_mc_npn_24.dat -i(Vce)
.endc
.end
